US08076324B2
2-(8-Cyclopropylmethoxy-1,4-dioxaspiro[4.5]dec-8-yl)-4-phenylthiazole
8.0 g of 8-(4-phenylthiazol-2-yl)-1,4-dioxa-spiro[4.5]decan-8-ol were dissolved in 100 ml of anhydrous DMF and treated with 1.1 g of sodium hydride. The mixture was stirred at room temperature for 15 min, then 6.0 g of bromomethylcyclopropane were added. The mixture was stirred at room temperature for 18 h, then poured onto 400 ml of a saturated aqueous sodium hydrogencarbonate solution and extracted three times with 300 ml each of EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. 8.3 g of the title compound were obtained as a pale yellow oil.

reactant | 8-(4-phenylthiazol-2-yl)-1,4-dioxa-spiro[4.5]decan-8-ol | 8.0 g | C1(=CC=CC=C1)C=1N=C(SC1)C1(CCC2(OCCO2)CC1)O | C17H19NO3S
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | bromomethylcyclopropane | 6.0 g | BrCC1CC1 | C4H7Br
reactant | sodium hydrogencarbonate | 400 ml | C(O)([O-])=O.[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(8-Cyclopropylmethoxy-1,4-dioxaspiro[4.5]dec-8-yl)-4-phenylthiazole | 8.3 g | C1(CC1)COC1(CCC2(OCCO2)CC1)C=1SC=C(N1)C1=CC=CC=C1 | C21H25NO3S
